US07846959B2
To a mixture of methyltriphenylphosphonium bromide (15.6 g, 44 mmol) in tetrahydrofuran (100 mL) at 0° C. was added a solution of sodium hexamethyldisilazide (22 mL, 2.0M solution in THF, 44 mmol), and the resulting mixture was stirred for one hour at 0° C. Methyl 2-[(4-chloro-3-nitrophenyl)carbonyl]benzoate (7.0 g, 22 mmol) in tetrahydrofuran (50 mL) was then added drop wise to the yellow reaction mixture and stirred at 0° C. for 30 minutes and at room temperature for four hours. The brown reaction mixture was diluted with hexanes, filtered through silica gel, and the filtrate was washed with water (100 mL), brine solution (100 mL), dried over sodium sulfate, filtered, concentrated, and purified by flash chromatography (silica gel, eluting with 5-10% ethyl acetate-hexane) to give methyl 2-[1-(4-chloro-3-nitrophenyl)ethenyl]benzoate (0.95 g, 3 mmol, 14% yield). 1H NMR (400 MHz, CDCl3): 7.95-7.93 (dd, 1H), 7.73-7.72 (d, 1H), 7.61-7.57 (dt, 1H), 7.50-7.46 (dt, 1H), 7.46-7.43 (d, 1H), 7.39-7.34 (m, 2H), 5.77 (s, 1H), 5.37 (s, 1H), 3.63 (s, 3H); MS (EI) for C16H12ClNO4: 318 (MH+).

reactant | sodium hexamethyldisilazide | 44 mmol, 2.0M, 22 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | Methyl 2-[(4-chloro-3-nitrophenyl)carbonyl]benzoate | 22 mmol, 7.0 g | ClC1=C(C=C(C=C1)C(=O)C1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C15H10ClNO5
catalyst | methyltriphenylphosphonium bromide | 44 mmol, 15.6 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 2-[1-(4-chloro-3-nitrophenyl)ethenyl]benzoate | 3 mmol, 0.95 g, 14% yield | ClC1=C(C=C(C=C1)C(=C)C1=C(C(=O)OC)C=CC=C1)[N+](=O)[O-] | C16H12ClNO4
